US08871967B2
(E)-cyclopropylmethyl hex-3-enoate
Prepared from (E)-methyl hex-3-enoate and cyclopropanemethanol according to the ester preparation method B described above.

reactant | (E)-methyl hex-3-enoate | C(C\C=C\CC)(=O)OC | C7H12O2
reactant | cyclopropanemethanol | C1(CC1)CO | C4H8O
product | (E)-cyclopropylmethyl hex-3-enoate | C(C\C=C\CC)(=O)OCC1CC1 | C10H16O2
